US06051712
In an analogous manner to that described in Example 44 (e), by alkylating tert-butyl (3RS,4RS,5SR)-3-hydroxy-5-hydroxymethyl-4-(4-hydroxy-phenyl)-piperidine-1-carboxylate with benzyl 3-bromopropyl ether in the presence of potassium carbonate in butan-2-one there was obtained tert-butyl (3RS,4RS,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-hydroxy-5-hydroxymethyl-piperidine-1-carboxylate as a colourless oil; MS: 472 (M+H)+.

reactant | tert-butyl (3RS,4RS,5SR)-3-hydroxy-5-hydroxymethyl-4-(4-hydroxy-phenyl)-piperidine-1-carboxylate | OC1CN(CC(C1C1=CC=C(C=C1)O)CO)C(=O)OC(C)(C)C | C17H25NO5
reactant | benzyl 3-bromopropyl ether | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | butan-2-one | CC(CC)=O | C4H8O
product | tert-butyl (3RS,4RS,5SR)-4-[4-(3-benzyloxy-propoxy)-phenyl]-3-hydroxy-5-hydroxymethyl-piperidine-1-carboxylate | C(C1=CC=CC=C1)OCCCOC1=CC=C(C=C1)C1C(CN(CC1CO)C(=O)OC(C)(C)C)O | C27H37NO6
